US09212174B2
(2S,5R)-5-t-Butoxycarbonyloxymethyl-5-(2-trimethylsilylethynyl)-2-t-butoxycarbonyloxy-2,5-dihydrofuran (β/α=>99/1) (2.0 g) was added to a glass reactor, and the atmosphere of the reactor was changed to nitrogen. To the reactor, thymine (3.1 g) and N,N′-dimethylformamide (40 mL) were added under stirring. To the resultant mixture, tetrakis(triphenylphosphine)palladium(0) (560 mg) was added, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated, and the residue was purified through silica gel column chromatography, to thereby yield 1.6 g of (2R,5R)-5-t-butoxycarbonyloxymethyl-5-(2-trimethylsilylethynyl)-2-(thymin-1-yl)-2,5-dihydrofuran (yield: 78%, β/α=>99/1). The 1H-NMR data of the compound are as follows.

reactant | (2S,5R)-5-t-Butoxycarbonyloxymethyl-5-(2-trimethylsilylethynyl)-2-t-butoxycarbonyloxy-2,5-dihydrofuran | 2.0 g | C(C)(C)(C)OC(=O)OC[C@@]1(C=C[C@@H](O1)OC(=O)OC(C)(C)C)C#C[Si](C)(C)C | C20H32O7Si
reactant | thymine | 3.1 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 560 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N′-dimethylformamide | 40 mL | CN(C)C=O | C3H7NO
product | (2R,5R)-5-t-butoxycarbonyloxymethyl-5-(2-trimethylsilylethynyl)-2-(thymin-1-yl)-2,5-dihydrofuran | yield 1.6 g, yield: 78% | C(C)(C)(C)OC(=O)OC[C@@]1(C=C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)C#C[Si](C)(C)C | C20H28N2O6Si
